** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/T_gate_switch_tb.sch
**.subckt T_gate_switch_tb Vo
*.iopin Vo
V1 vref GND 0.6
V2 Control GND PULSE(0 1.2 0 1u 1u 10u 20u)
V3 vdd GND 1.2
C1 Vo GND 7p m=1
x1 net1 GND Vo GND Control vdd T_gate
x2 Control vref Vo GND net1 vdd T_gate
x3 vdd Control net1 GND inverter
**** begin user architecture code


.control
save all
tran 1u 100u
write T_gate_tb.raw
.endc


 .lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  T_gate.sym # of pins=6
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/T_gate.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vin !Control Vout vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/inverter.sym
** sch_path: /home/designer/shared/SAR_ADC_8BIT_IHP/xschem/inverter.sch
.subckt inverter vdd vi vo gnd
*.iopin vi
*.iopin vo
*.iopin gnd
*.iopin vdd
XM5 vo vi vdd vdd sg13_lv_pmos w=800n l=130n ng=1 m=1
XM7 vo vi gnd gnd sg13_lv_nmos w=400n l=130n ng=1 m=1
.ends

.GLOBAL GND
.end
